US04397992
A methyl methacrylate-ethyl acrylate multi-stage graft copolymer was prepared using the following procedure. Initially, 1.2 grams of potassium persulfate (Fisher Scientific) was dissolved in 98.8 grams of distilled water. Then, 1.4 grams of sodium formaldehyde sulfoxylate (Hydrosulfite AWC PEA, Diamond Shamrock) was weighed into a 100 ml. volumetric flask and brought up to volume with distilled water. Into a three-neck flask was weighed 280 grams of distilled water, 0.67 gram of a 30% solution of sodium lauryl sulfate (Maprofix LCP, Onyx Chemical Co.), 10.0 grams of ethyl acrylate (Rohm and Haas Co.) and 0.2 grams of 1,3-butylene dimethacrylate (Rocryl 970, Rohm and Haas Co.). The three-neck flask was then set up on a hotplate/stirrer and a thermometer, a reflux condenser and a stopper were inserted in the necks of the flask. Nitrogen was then hooked up to the thermometer side and the hose from the condenser was vented to the hood. After agitation was begun, the flask was gently purged with nitrogen for 2 minutes. After removing the stopper, 1.0 ml. of the potassium persulfate solution and 1.0 ml. of the sodium formaldehyde sulfoxylate solution were added to the flask. The stopper was then replaced and the flask was heated to a temperature of 70°-80° C. while stirring. After a temperature of 70°-80° C. was reached, the heat was turned off and the temperature was allowed to drop to about 40° C. During the cooling period, 88.0 grams of methyl methacrylate (Rohm and Haas Co.), 1.8 grams of 1,3-butylene dimethacrylate, and 0.2 grams of t-dodecyl mercaptan (Phillips Petroleum) were weighed into a 100 ml. cylindrical separatory funnel. While stirring, 5.81 ml. of the sodium lauryl sulfate solution, 9.0 ml. of the sodium formaldehyde sulfoxylate solution, and 9.0 ml. of the potassium persulfate solution were added to the three-neck flask. The separatory funnel containing the methyl methacrylate mixture was then placed on and the contents added to the three-neck flask. Then, the heat was turned on and the temperature was allowed to rise to about 70° C. at which point the heat was turned down and the reaction allowed to proceed at a temperature of about 70°-80° C. for 2 hours. After 2 hours, the heat was turned off and 1.0 ml. of the sodium formaldehyde sulfoxylate solution and 1.0 ml. of the potassium persulfate solution were added down the reflux condenser, and the mixture was allowed to cool slowly to room temperature. The mixture was then poured into a pyrex dish and dried. The product was a multi-stage graft copolymer in which the first stage was cross-linked ethyl acrylate, which represented about 10 percent by weight of the total product, and the second stage was cross-linked methyl methacrylate grafted to the first stage, which represented about 90 percent by weight of the total product.

reactant | potassium persulfate | 1.2 grams | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium formaldehyde sulfoxylate | 1.4 grams | S([O-])[O-].C=O.[Na+].[Na+]
reactant | sodium lauryl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | ethyl acrylate | 10.0 grams | C(C=C)(=O)OCC | C5H8O2
reactant | 1,3-butylene dimethacrylate | 0.2 grams | C(C(=C)C)(=O)OCCC(C)OC(C(=C)C)=O | C12H18O4
solvent | water | 98.8 grams | O | H2O
solvent | water | 280 grams | O | H2O
product | methyl methacrylate ethyl acrylate | C(C(=C)C)(=O)OC.C(C=C)(=O)OCC | 2C5H8O2
